### PR TITLE
feat(ErdosProblems): 697

### LINKED ISSUE #886: Erdős Problem 697
### What is the conjecture
    
https://www.erdosproblems.com/697

  Let $\delta(m,\alpha)$ denote the density of the set of integers which are divisible by some $d\equiv 1\pmod{m}$ with $1<d<\exp(m^\alpha)$. Does there exist some $\beta\in (1,\infty)$ such that
$$\lim_{m\to \infty}\delta(m,\alpha)$$
is $0$ if $\alpha<\beta$ and $1$ if $\alpha>\beta$?
  

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by CoolRmal**
Closes #886

### CODE REVIEW

File: FormalConjectures/ErdosProblems/697.lean [hunk 1]
```diff
@@ -0,0 +1,63 @@
...
+open Filter Set Real
+open scoped Topology
+
+namespace Erdos697
+
+/-- For each $m$ and $\alpha$, the density of the set of integers which are divisible by
+some $d \equiv 1 \pmod{m}$ with $1 < d < \exp (m ^ \alpha)$ exists. -/
+@[category research solved, AMS 11]
+theorem density_exists (m : ℕ) (α : ℝ) : ∃ δ, HasDensity
+    {n : ℕ | ∃ d, d ≡ 1 [MOD m] ∧ (d : ℝ) ∈ Set.Ioo 1 (exp (m ^ α)) ∧ n ∣ d} δ := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/697.lean]:
```suggestion
    {n : ℕ | ∃ d, d ≡ 1 [MOD m] ∧ (d : ℝ) ∈ Set.Ioo 1 (exp (m ^ α)) ∧ d ∣ n} δ := by
```
no?

File: FormalConjectures/ErdosProblems/697.lean [hunk 2]
```diff
@@ -0,0 +1,63 @@
...
+  sorry
+
+/-- $lim_{m\rightarrow\infty} \delta (m, \alpha) = 1` if $\beta < \alpha$.
+This is proved in [Ha92]. -/
+@[category research solved, AMS 11]
+theorem erdos_697.lt_beta {α : ℝ} (hα : α < 1 / log (2 : ℝ)) : Tendsto (δ · α) atTop (𝓝 1) := by
+  sorry
+
+
+end Erdos697
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/697.lean]:
```suggestion
end Erdos697
```

File: FormalConjectures/ErdosProblems/697.lean [hunk 3]
```diff
@@ -0,0 +1,62 @@
...
+namespace Erdos697
+
+/-- For each $m$ and $\alpha$, the density of the set of integers which are divisible by
+some $d \equiv 1 \pmod{m}$ with $1 < d < \exp (m ^ \alpha)$ exists. -/
+@[category research solved, AMS 11]
+theorem density_exists (m : ℕ) (α : ℝ) : ∃ δ, HasDensity
+    {n : ℕ | ∃ d, d ≡ 1 [MOD m] ∧ (d : ℝ) ∈ Set.Ioo 1 (exp (m ^ α)) ∧ d ∣ n} δ := by
+  sorry
+
+/-- For each $m$ and $\alpha$,  $\delta (m, \alpha)$ is the density of the set of integers which are
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/697.lean]:
```suggestion
/-- For each $m$ and $\alpha$, $\delta (m, \alpha)$ is the density of the set of integers which are
```

File: FormalConjectures/ErdosProblems/697.lean [hunk 4]
```diff
@@ -0,0 +1,62 @@
...
+@[category research solved, AMS 11]
+theorem erdos_697.delta_lt (m : ℕ) (α : ℝ) : δ m α < (m ^ α + 1) / m := by sorry
+
+/-- Let $\beta = \frac{1}{\log 2}$. Then $lim_{m\rightarrow\infty} \delta (m, \alpha) = 0$ if
+$\alpha < \beta$. This is proved in [Ha92]. -/
+@[category research solved, AMS 11]
+theorem erdos_697.beta_lt {α : ℝ} (hα : 1 / log (2 : ℝ) < α) : Tendsto (δ · α) atTop (𝓝 0) := by
+  sorry
+
+/-- $lim_{m\rightarrow\infty} \delta (m, \alpha) = 1` if $\beta < \alpha$.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/697.lean]:
```suggestion
/-- $lim_{m\rightarrow\infty} \delta (m, \alpha) = 1$ if $\beta < \alpha$.
```
no?

File: FormalConjectures/ErdosProblems/697.lean [hunk 5]
```diff
@@ -0,0 +1,62 @@
...
+
+/-- For each $m$ and $\alpha$,  $\delta (m, \alpha)$ is the density of the set of integers which are
+divisible by some $d \equiv 1 \pmod{m}$ with $1 < d < exp (m ^ \alpha)$ exists. -/
+noncomputable def δ (m : ℕ) (α : ℝ) : ℝ := (density_exists m α).choose
+
+/-- $\delta < \frac{m ^ \alpha + 1}{m}`. This shows that
+$lim_{m\rightarrow\infty} \delta (m, \alpha) = 0$ for $\alpha < 1$.
+#TODO: prove this theorem. -/
+@[category research solved, AMS 11]
+theorem erdos_697.delta_lt (m : ℕ) (α : ℝ) : δ m α < (m ^ α + 1) / m := by sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/697.lean]:
```suggestion
theorem erdos_697.delta_lt (m : ℕ) (α : ℝ) : δ m α < (m ^ α + 1) / m := by
  sorry
```
for standardisation
